US06107329
(S)-2-Amino-3-(4-fluoro-phenyl)-1-morpholin-4-yl-propan-1-one hydrochloride
(S)-2-(N-t-Butoxycarbonylamino)-3-(4-fluoro-phenyl)-1-morpholin-4-yl-propan-1-one (3.1 mmol) was dissolved in 4M HCl-dioxane at 0° C. and the resulting suspension stirred at 25° C. for 1 hour. The mixture was concentrated and the residue triturated with ether. Yield, 776 mg, 88%; HPLC (60/40) 2.31 minutes (99%).

reactant | (S)-2-(N-t-Butoxycarbonylamino)-3-(4-fluoro-phenyl)-1-morpholin-4-yl-propan-1-one | 3.1 mmol | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1CCOCC1)CC1=CC=C(C=C1)F | C18H25FN2O4
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
product | (S)-2-Amino-3-(4-fluoro-phenyl)-1-morpholin-4-yl-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CCOCC1)CC1=CC=C(C=C1)F | InChI=1S/C13H17FN2O2.ClH/c14-11-3-1-10(2-4-11)9-12(15)13(17)16-5-7-18-8-6-16;/h1-4,12H,5-9,15H2;1H/t12-;/m0./s1
